US05213606
Preparation of Sodium 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}-1-hydroxy-1-propanesulfonate
A solution of 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}propionaldehyde (25.38 g, 0.0813 mol) in methanol (300 mL) is added dropwise to a solution of sodium bisulfite (10.2 g, 0.0976 mol) in water (100 mL). The reaction mixture is stirred for 4 days at room temperature and filtered. The filter cake is dried in a vacuum oven overnight to obtain the title product as a white solid (24.6 g, mp 172°-173° C.).

reactant | 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}propionaldehyde | 0.0813 mol, 25.38 g | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C=O)C)C=C1 | C14H11Cl2NO3
reactant | sodium bisulfite | 0.0976 mol, 10.2 g | S([O-])(O)=O.[Na+]
solvent | methanol | 300 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | Sodium 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}-1-hydroxy-1-propanesulfonate | 24.6 g | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(S(=O)(=O)[O-])O)C)C=C1.[Na+] | InChI=1S/C14H13Cl2NO6S.Na/c1-8(14(18)24(19,20)21)22-10-2-4-11(5-3-10)23-13-12(16)6-9(15)7-17-13;/h2-8,14,18H,1H3,(H,19,20,21);/q;+1/p-1
